US06509334B1
6-Bromo-spiro[4H-3,1-benzoxazine-4,1′-cyclohexane]-2-(1H)-one
Prepared from 1-(2-amino-5-bromo-phenyl) cyclohexanol and carbonyl diimidazole according to the procedure of Example 2. Off-white solid: mp 208-210° C. 1H-NMR (DMSO-d6) δ10.26 (s, 1H), 7.45 (d, 1H, J=2.2 Hz), 7.39 (dd, 1H, J=8.2, 2.2 Hz), 6.81 (d, 1H, J=8.3 Hz), 1.90-1.97 (m, 2H), 1.80-1.85 (m, 5H), 1.25-1.35 (m, 1H); MS (APC1) m/z 296 ([M+H]+, 68%)

reactant | 1-(2-amino-5-bromo-phenyl) cyclohexanol | NC1=C(C=C(C=C1)Br)C1(CCCCC1)O | C12H16BrNO
reactant | carbonyl diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
product | 6-Bromo-spiro[4H-3,1-benzoxazine-4,1′-cyclohexane]-2-(1H)-one | BrC=1C=CC2=C(C1)C1(CCCCC1)OC(N2)=O | C13H14BrNO2
